US04433152
A mixture of 2.00 g of 1-amidino-4-piperidinepropionic acid hydrochloride and 0.95 g of p-fluorophenol was suspended in 20 ml of dry pyridine. To the suspension was added with stirring and ice-cooling 1.74 g of dicyclohexylcarbodiimide and the resulting mixture was allowed to stand at room temperature for 4 days. After removal of any insoluble materials, the filtrate was concentrated under reduced pressure. Ethyl acetate was added to the residue to give crystals which were then recrystallized from methanol-ether to obtain 1.4 g (yield: 50.0%) of p-fluorophenyl 1-amidino-4-piperidinepropionate hydrochloride as colorless crystals having a melting point of 131° to 133° C.

reactant | 1-amidino-4-piperidinepropionic acid hydrochloride | 2.00 g | Cl.C(N)(=N)N1CCC(CC1)CCC(=O)O
reactant | p-fluorophenol | 0.95 g | FC1=CC=C(C=C1)O | C6H5FO
reactant | dicyclohexylcarbodiimide | 1.74 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | pyridine | 20 ml | N1=CC=CC=C1 | C5H5N
product | p-fluorophenyl 1-amidino-4-piperidinepropionate hydrochloride | 1.4 g, yield: 50.0% | Cl.C(N)(=N)N1CCC(CC1)CCC(=O)OC1=CC=C(C=C1)F | InChI=1S/C15H20FN3O2.ClH/c16-12-2-4-13(5-3-12)21-14(20)6-1-11-7-9-19(10-8-11)15(17)18;/h2-5,11H,1,6-10H2,(H3,17,18);1H
